US04012413
In the manner given in Preparation 3, 7-bromo-8-trifluoromethyl-6-(m-nitrophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine-1-acetic acid methyl ester is reacted with methylamine in diemethylformamide to give N-methyl-7-bromo-8-trifluoromethyl-6-(m-nitrophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine-1-acetamide.

reactant | 7-bromo-8-trifluoromethyl-6-(m-nitrophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine-1-acetic acid methyl ester | COC(CC1=NN=C2N1C1=C(C(=NC2)C2=CC(=CC=C2)[N+](=O)[O-])C(=C(C=C1)C(F)(F)F)Br)=O | C20H13BrF3N5O4
reactant | methylamine | CN | CH5N
product | N-methyl-7-bromo-8-trifluoromethyl-6-(m-nitrophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine-1-acetamide | CNC(CC1=NN=C2N1C1=C(C(=NC2)C2=CC(=CC=C2)[N+](=O)[O-])C(=C(C=C1)C(F)(F)F)Br)=O | C20H14BrF3N6O3
